US08471005B2
Into a 30 mL vial, Palladium Acetate (0.043 g, 0.19 mmol) and Triphenylphosphine (0.14 g, 0.54 mmol) were added. The mixture was purged under an atmosphere of Nitrogen for 10 minutes. 1,4-Dioxane (14.6 mL) was added and stirred for 10 minutes at room temperature. 7-Bromo-2-methylsulfanyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazine (0.750 g, 1.92 mmol), N-[2-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide (1.14 g, 3.84 mmol), N,N-Dimethylformamide (29 mL, 380 mmol), and 1.50 M of Sodium carbonate in Water (11.5 mL, 17.3 mmol) were added. The reaction was heated at 90° C. for 3 hours. The reaction was partitioned with water and EtOAc. The organic was separated, washed with Brine, and dried over magnesium sulfate. The solid was filtered and washed with EtOAc. The solvent was removed under vacuum. The product was isolated via column chromatography with DCM and Methanol as eluant (0 to 5% MeOH). The collected fractions afforded a solid. The solid was triturated with Et2O and filtered to give N-{2-[2-Methylsulfanyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide as a yellow solid (0.72 g, 78%).

reactant | Triphenylphosphine | 0.54 mmol, 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 7-Bromo-2-methylsulfanyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazine | 1.92 mmol, 0.750 g | BrC1=CC(=C2C=NC(=NN21)SC)OCOCC[Si](C)(C)C | C13H20BrN3O2SSi
reactant | N-[2-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 3.84 mmol, 1.14 g | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NS(=O)(=O)C)C | C13H20BNO4S
reactant | N,N-Dimethylformamide | 380 mmol, 29 mL | CN(C=O)C | C3H7NO
reactant | Sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 17.3 mmol, 11.5 mL | O | H2O
catalyst | Palladium Acetate | 0.19 mmol, 0.043 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-{2-[2-Methylsulfanyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide | 0.72 g, 78% | CSC1=NN2C(C=N1)=C(C=C2C2=C(C=CC=C2)NS(=O)(=O)C)OCOCC[Si](C)(C)C | C20H28N4O4S2Si
